US06495542B1
A solution of 8-(4-methylphenylsulfonyl)oxyimino-5,6,7,8-tetrahydroisoquinoline (1.2 g) and potassium acetate (7.45 g) in ethanol (25 ml) and water (30 ml) was heated at 95° C. for 23 hours. The solvent was evaporated at reduced pressure, and the residue was basified with saturated aqueous sodium hydrogencarbonate solution and extracted with chloroform. The dried extract (dried over sodium sulfate) was evaporated at reduced pressure to give crude product. After partial purification by column chromatography (SiO2; 30 g, AcOEt/hexane=2/1, then 5% MeOH—CHCl3), the obtained solid was washed with ether to give 2,3,4,5-tetrahydro-1H-pyrido[3,4-b]azepin-2-one (170 mg).

reactant | 8-(4-methylphenylsulfonyl)oxyimino-5,6,7,8-tetrahydroisoquinoline | 1.2 g | CC1=CC=C(C=C1)S(=O)(=O)ON=C1CCCC=2C=CN=CC12 | C16H16N2O3S
reactant | potassium acetate | 7.45 g | C(C)(=O)[O-].[K+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
product | 2,3,4,5-tetrahydro-1H-pyrido[3,4-b]azepin-2-one | 170 mg | N1C2=C(CCCC1=O)C=CN=C2 | C9H10N2O
